US05389633
Production of 6-(2,2-diethyl-6-sulfamoyl-1-hexyloxy)-7-methyl[1,2,4]triazolo[1,5-b]pyridazine
Using 6-hydroxy-5,5-diethyl-1-hexanesulfonamide and 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine, the same reaction was conducted as in Example 5 to produce the title compound. m.p. 132°-133° C.

reactant | 6-hydroxy-5,5-diethyl-1-hexanesulfonamide | OCC(CCCCS(=O)(=O)N)(CC)CC | C10H23NO3S
reactant | 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | ClC=1C(=CC=2N(N1)N=CN2)C | C6H5ClN4
product | 6-(2,2-diethyl-6-sulfamoyl-1-hexyloxy)-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | C(C)C(COC=1C(=CC=2N(N1)N=CN2)C)(CCCCS(N)(=O)=O)CC | C16H27N5O3S
